**SRAM 8T DC 1v**

.inc "C:\synopsys\65nm_bulk.pm"

.global gnd vdd

MP1 QB  Q vdd vdd pmos w=3u l=0.065u
MN2 QB  Q gnd gnd nmos w=  1u l=0.065u
MP3  Q QB vdd vdd pmos w=3u l=0.065u
MN4  Q QB gnd gnd nmos w=  1u l=0.065u

MN5 QB WL BLB gnd nmos w=1u l=0.065u
MN6  Q WL  BL gnd nmos w=1u l=0.065u 

MN9 node  Qb gnd gnd nmos w=1u l=0.065u
MN8 node RDWL RDBL gnd nmos w=10u l=0.065u

vdd vdd gnd DC 0.8V


$ 給予初始值

.ic v(q) = 0.8v
.ic v(qb) = 0v
$.ic v(rdbl) = 0.8v

$ read section
$Vwl WL gnd dc 0
$vrdwl  RDWL gnd pulse(0 0.8 2n 0.1n  0.1n  2n 4n)
$VQ  Q gnd dc 0.8
$VQb Qb gnd dc 0 

$ write section
Vwl WL gnd pulse(0 0.8 2n 0.1n  0.1n  2n 4n)
Vbl BL gnd pwl 4ns 0v 5.99ns 0v 6ns 0.8v 8ns 0.8v 8.01ns 0v 9.99ns 0v 10ns 0.8v
Vblb blb gnd pwl 4ns 0.8v 5.99ns 0.8v 6ns 0v 8ns 0v 8.01ns 0.8v 9.99ns 0.8v 10ns 0v


$ other section
$Vwl WL gnd pwl 0ns 0v 1.99ns 0v 2ns 0.8v 8ns 0.8v 8.01ns 0v 

**"PAR" is use to declare parameter or expression
$.print bl_POWER = PAR('abs(V(RDBL)*I(vdd))')
.probe blb_POWER = PAR('abs(V(bl)*I(vdd))')

.tran 0.1ns 8ns
.option post
.temp 25
.probe v(BLB)
$.measure tran BL_Power avg power

.end

**end**